US07981918B2
3-(2,6-Dichloro-4-methoxy-benzyl)-1-(4-oxo-cyclohexyl)-pyrrolidin-2-one
Dissolve 3-(2,6-Dichloro-4-methoxy-benzyl)-1-(1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one (6.5 g, 15.7 mmol) in acetone (100 mL), add p-toluenesulfonic acid hydrate (3 g, 15.7 mmol) and stir for 24 hr at room temp. Add 5N HCl (10 mL) and heat to 45° C. for 1 hr. Reaction progress can be monitored by TLC. Concentrate the reaction mixture, dilute with saturated aqueous sodium hydrogen carbonate (500 mL) and extract with ethyl acetate (3×150 mL). Wash the combined extracts with water (100 mL) and brine (100 mL), dry over anhydrous sodium sulfate, filtered, and concentrate to about 50 mL volume, dilute with hexanes (50 mL) and filter to give 5.5 g, 95%, as a white solid. 1H NMR (CDCl3) δ 6.78 (s, 2H), 4.44-4.52 (m, 1H), 3.78 (s, 3H), 3.37-3.47 (m, 1H), 3.29-3.36 (m, 1H), 3.15-3.23 (m, 2H), 2.39-2.62 (m, 4H), 1.80-2.11 (m, 6H). LCMS m+1 370.

reactant | 3-(2,6-Dichloro-4-methoxy-benzyl)-1-(1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one | 15.7 mmol, 6.5 g | ClC1=C(CC2C(N(CC2)C2CCC3(OCCO3)CC2)=O)C(=CC(=C1)OC)Cl | C20H25Cl2NO4
reactant | p-toluenesulfonic acid hydrate | 15.7 mmol, 3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | HCl | 5N, 10 mL | Cl | ClH
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-(2,6-Dichloro-4-methoxy-benzyl)-1-(4-oxo-cyclohexyl)-pyrrolidin-2-one | ClC1=C(CC2C(N(CC2)C2CCC(CC2)=O)=O)C(=CC(=C1)OC)Cl | C18H21Cl2NO3
